US04032544
(a) 3-Cyanomethylene phthalide
A finely powdered mixture of phthalic anhydride (34 g.; 0.23 mole) and cyanoacetic acid (22 g.; 0.26 mole) was dissolved in dry pyridine (28 ml) and the mixture stirred for 6 hours at 60°-70° C. After cooling overnight the dark solid was treated with water (800 ml) and brought to pH 4-5 with hydrochloric acid. The resulting yellow solid was filtered off, washed well with water and recrystallised from glacial acetic acid, m.p. 178°-180° C. (lit. m.p. 195° C.).

reactant | phthalic anhydride | 0.23 mole, 34 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | cyanoacetic acid | 0.26 mole, 22 g | C(#N)CC(=O)O | C3H3NO2
reactant | water | 800 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 28 ml | N1=CC=CC=C1 | C5H5N
product | 3-Cyanomethylene phthalide | C(#N)C=C1OC(=O)C2=CC=CC=C12 | C10H5NO2
